US06624179B1
Preparation of α-(4-tert-Butylphenyl)-β-[(methylthio)carbonyloxy]-β-(2-trifluoromethylphenyl)acrylonitrile (Isomer Ratio 2:98, Compound E)
A mixture comprising 5.0 g of α-(4-tert-butylphenyl)-β-hydroxy-β-(2-trifluoromethylphenyl)acrylonitrile, 1.5 g of sodium carbonate and 30 ml of methyl ethyl ketone, was heated to 70° C., and a mixture comprising 2.1 g of methyl chlorothiolformate and 10 ml of methyl ethyl ketone, was dropwise added over a period of 10 minutes. After completion of the dropwise addition, the reaction was carried out for 30 minutes at a temperature of from 70 to 75° C. The reaction mixture was cooled, and then an inorganic salt was filtered off. The cake was washed with 20 ml of methyl ethyl ketone. Methyl ethyl ketone in the filtrate was distilled off, and to the residue, 50 ml of an isoparaffin type hydrocarbon (tradename: ISOPAR G, manufactured by EXXON CHEMICAL) was added, followed by heating for dissolution, and the solution was left to cool to room temperature. Precipitated crystals were collected by filtration, and the cake was washed with 10 ml of ISOPAR G (tradename) and then dried at 65° C. for 12 hours to obtain 4.9 g of the desired product (isomer ratio 2:98). The HPLC conditions for the analysis of this product were as follows. Further, the NMR spectrum data of this product were the same as in Preparation Example 4.

reactant | α-(4-tert-butylphenyl)-β-hydroxy-β-(2-trifluoromethylphenyl)acrylonitrile | 5.0 g | C(C)(C)(C)C1=CC=C(C=C1)C(C#N)=C(C1=C(C=CC=C1)C(F)(F)F)O | C20H18F3NO
reactant | sodium carbonate | 1.5 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | methyl chlorothiolformate | 2.1 g | ClC1=C(SC=C1)C(=O)OC | C6H5ClO2S
solvent | methyl ethyl ketone | 10 ml | C(C)C(=O)C | C4H8O
solvent | methyl ethyl ketone | 30 ml | C(C)C(=O)C | C4H8O
product | α-(4-tert-Butylphenyl)-β-[(methylthio)carbonyloxy]-β-(2-trifluoromethylphenyl)acrylonitrile | 4.9 g | C(C)(C)(C)C1=CC=C(C=C1)C(C#N)=C(C1=C(C=CC=C1)C(F)(F)F)OC(=O)SC | C22H20F3NO2S
